US04117128
To a solution of 3.9 g.(0.02 mol.) of 2-phenylbenzofuran and 6.2 g. (0.03 mol.) of 4-methoxybenzenesulfonyl chloride in 50 ml. of methylene chloride was added 3.5 ml. (7.83 g., 0.03 mol.) of stannic chloride. The reaction mixture was stirred at ambient temperature for about 12 hours then poured into 150 ml. of water. The layers were separated and the organic phase was extracted once with 10% aqueous sodium bicarbonate solution, three times with water and once with a saturated sodium chloride solution, dried (MgSO4) and evaporated to dryness to give a residue. Ether (ca. 35 ml.) was added to the residue and it was refluxed for 1 hour then filtered. The solid collected was recrystallized from benzene-hexane then chromatographed on a silica gel "dry column" with methylene chloride as eluant to give 3-(4-methoxyphenylsulfonyl)-2-phenylbenzofuran, m.p. 146°-148°.

reactant | 2-phenylbenzofuran | 0.02 mol | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C14H10O
reactant | 4-methoxybenzenesulfonyl chloride | 0.03 mol | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
solvent | Ether | ca. 35 ml | CCOCC | C4H10O
product | 3-(4-methoxyphenylsulfonyl)-2-phenylbenzofuran | COC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=CC=C2 | C21H16O4S
